US07713994B2
(4Z)-6-Bromo-4-{[(3-hydroxy-4-isopropoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
To a solution of (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)-amino]methylene}isoquinoline-1,3(2H,4H)-dione (0.74 g, 1.9 mmol) in 5 mL of N,N′-dimethylformamide is added 2-iodopropane (0.19 mL, 1.9 mmol) and 0.52 g (3.8 mmol) of potassium carbonate. The reaction mixture is heated at 70° C. under N2. Mass spectroscopy indicated the completion of reaction after 3.5 h. The reaction mixture is filtered through a pad of celite, and water is added to give a precipitate. It is filtered and washed successively with MeOH, Et2O and hexane, dried in oven (60° C.) overnight to afford 0.58 g (70.7% yield) of tan solid: mp 212-213° C.; MS (ESI) m/z 431.2 and 433.2 (M+H)+1

reactant | (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)-amino]methylene}isoquinoline-1,3(2H,4H)-dione | 1.9 mmol, 0.74 g | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)O)O | C17H13BrN2O4
reactant | 2-iodopropane | 1.9 mmol, 0.19 mL | IC(C)C | C3H7I
reactant | potassium carbonate | 3.8 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N′-dimethylformamide | 5 mL | CN(C)C=O | C3H7NO
product | (4Z)-6-Bromo-4-{[(3-hydroxy-4-isopropoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.58 g, 70.7% yield | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OC(C)C)O | C20H19BrN2O4
